US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-2-oxo-1,2-dihydro-7-quinolinecarbonitrile Hydrochloride
A suspension of 1-[2-(4-amino-1-piperidinyl)ethyl]-2-oxo-1,2-dihydro-7-quinolinecarbonitrile (300 mg, 1.01 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (167 mg, 1.01 mmol) in chloroform (10 mL), methanol (15 mL) and DMF (20 mL) was stirred at rt for 30 min then NaBH(OAc)3 (642 mg, 3.03 mmol) was added. The reaction was stirred at rt overnight. The solvents were removed and residue dried in vacuo. The residue was subjected to column chromatography on silica gel eluting with 0-20% methanol-DCM to afford the free base of the title compound (247 mg, 55%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-2-oxo-1,2-dihydro-7-quinolinecarbonitrile | 1.01 mmol, 300 mg | NC1CCN(CC1)CCN1C(C=CC2=CC=C(C=C12)C#N)=O | C17H20N4O
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | methanol | 15 mL | CO | CH4O
reactant | NaBH(OAc)3 | 3.03 mmol, 642 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-2-oxo-1,2-dihydro-7-quinolinecarbonitrile Hydrochloride | 247 mg, 55% | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=CC=C(C=C21)C#N)=O | InChI=1S/C25H27N5O3.ClH/c26-15-18-1-2-19-3-4-25(31)30(22(19)13-18)10-9-29-7-5-20(6-8-29)27-16-21-14-23-24(17-28-21)33-12-11-32-23;/h1-4,13-14,17,20,27H,5-12,16H2;1H
